US05371101
In the same manner as in Reference Example 5, starting from 0.66 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 0.65 g of 4-(4-chlorophenyl)-3(2H,4H)-1,2,4-triazolone, 0.23 g of 4-(4-chlorophenyl)-2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3(2H,4H)-1,2,4-triazolone was obtained as a colorless viscous oil.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 0.66 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-(4-chlorophenyl)-3(2H,4H)-1,2,4-triazolone | 0.65 g | ClC1=CC=C(C=C1)N1C(NN=C1)=O | C8H6ClN3O
product | 4-(4-chlorophenyl)-2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3(2H,4H)-1,2,4-triazolone | 0.23 g | ClC1=CC=C(C=C1)N1C(N(N=C1)[C@@H]([C@]1(CO1)C1=C(C=C(C=C1)F)F)C)=O | C18H14ClF2N3O2
